US07691882B2
3-(3-(3-Phenoxy-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a tetrahydrofuran (10.0 mL) solution of (3-phenoxy-phenyl)-acetohydroximoyl chloride (133 mg, 0.508 mmol) described in Manufacturing Example 64-1-3 and 3-ethynyl-pyridine-2,6-diamine (30.0 mg, 0.254 mmol) described in Manufacturing Example 13-1-3 was added triethylamine (94.1 μL, 0.675 mmol) at room temperature, which was stirred for 14 hours at room temperature. Water was added to the reaction solution at room temperature, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=3:1) to obtain the title compound (26.1 mg, 80.6%).

reactant | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
reactant | (3-phenoxy-phenyl)-acetohydroximoyl chloride | 0.508 mmol, 133 mg | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC(=NO)Cl | C14H12ClNO2
reactant | 3-ethynyl-pyridine-2,6-diamine | 0.254 mmol, 30.0 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 0.675 mmol, 94.1 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(3-Phenoxy-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 26.1 mg, 80.6% | O(C1=CC=CC=C1)C=1C=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=CC1 | C21H18N4O2
